US04608374
11-{1-[2-(3-Chlorophenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
A mixture of 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (6.05 g, 0.023 mole), 3-chlorophenethyl chloride (4.74 g, 0.027 mole), K2CO3 (10.9 g) and KI (0.1 g) in 130 ml n-butyl acetate was refluxed for 50 hours. The reaction mixture was cooled, filtered and concentrated to an oil.

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.023 mole, 6.05 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | 3-chlorophenethyl chloride | 0.027 mole, 4.74 g | ClC=1C=C(CCCl)C=CC1 | C8H8Cl2
reactant | K2CO3 | 10.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | n-butyl acetate | 130 ml | C(C)(=O)OCCCC | C6H12O2
product | 11-{1-[2-(3-Chlorophenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | ClC=1C=C(C=CC1)CCN1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C25H27ClN2O
